reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2][C:3]([C:4]([C:5](=[O:6])[H:12])([H:8])[H:11])([H:9])[H:10])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],20.925340675167803
[C:3](=[C:4]([H:13])[H:14])([H:11])[H:12].[N:1](=[C:2](\[C:6]#[N:7])[H:10])\[H:8].[O:5]([H:9])[H:15]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],47.94359122264369
[C:1]([C:2](/[C:3](=[C:6](/[O:7][C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],77.09830362584427
[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:10])[H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],28.2222108893925
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@:4]1([O:5][H:8])[C:6]([O:7][H:15])([H:13])[H:14],50.0112904277271
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:4]([H:13])([H:14])[H:15])[C:3]([H:10])([H:12])[C:6]([H:11])([H:16])[C:5]1)([H:7])([H:8])[H:9],93.85066313458842
[O:1]([C:2]([C:3]#[C:4][H:9])=[C:5]=[N:6][H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],65.7037260364109
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]([C:3](=[C:4])[H:7])[C:5]#[N:6],44.0217908072204
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:5](/[O:6][C:3](=[O:4])[H:11])[H:12])[H:10])([H:7])([H:8])[H:9],49.401808966275304
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][c:5]1[H:9]>>[N:1](=[C:5](/[N:4]1[C:2]([H:7])=[C:3]1[H:8])[H:9])\[H:6],110.69078326937701
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9].[H:12][H:13]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],66.9992051619337
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]([C:5](=[O:6])[H:14])([H:10])[C@:3]1([O:4][H:13])[H:11].[H:7][H:12],111.513097062287
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O+:5]=[C-:4][N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],102.77128107329
[C:1]1([H:6])([H:8])[C@@:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C@@:4]1([O:5][H:7])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],68.40869906248189
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([H:10])[H:13])([H:7])([H:8])[H:9].[C:4](=[C:5]([H:14])[H:15])([O:6][H:16])[H:12],85.64558606842759
[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:13].[N:1](=[C:2])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[O:6]1)\[H:7],43.2630330814662
[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[O:5][C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9],75.0919836102837
[C:4](=[C:5]=[O:6])([H:12])[H:13].[O:1](/[C:2](=[C:3](\[C:7]([H:10])([H:14])[H:15])[H:11])[H:9])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],104.4421643508988
[C:1]([C:2](=[O:3])[H:6])([C:4]([H:8])([H:9])[H:10])([H:5])[H:7]>>[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],89.80449117894605
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])(/[N:4]=[C:6](/[O:7][C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10],74.4737846933861
[C:1]([C@@:2]1([H:11])[C:6]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],68.44735395034621
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:6]=[C:5]=[C:4]([H:9])[H:10])([H:7])[H:8],82.6663632930501
[C:1]([N:2]([C@@:3]([N+:5]#[C-:4])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],30.686706186945507
[C:1]([H:7])([H:8])([H:9])[H:16].[C@@:2]1([C:3]([H:11])([H:12])[H:13])([H:10])[C:4]([H:14])([H:15])[C@:5]1([O:6][H:18])[H:17]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],90.47569528862981
[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[H:9])([H:6])([H:7])[H:8].[H:10][H:11]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],43.3744698363993
